US08222245B2
1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of 1,1-dimethylethyl 7-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 75) (0.84 g, 2.73 mmol), 3-cyano-4-[(1-methylethyl)oxy]benzoic acid (can be prepared as described in WO2005/58848) (0.617 g, 3.01 mmol), EDC (0.786 g, 4.10 mmol) and HOBT (0.502 g, 3.28 mmol) in DMF (10 ml) was stirred at RT overnight. Additional EDC (0.4 g) was added and the reaction stirred for 3 hours. Then additional 3-cyano-4-[(1-methylethyl)oxy]benzoic acid (0.3 g) was added, the reaction heated at 120° C. for 1 hour and left standing overnight. The reaction mixture was partitioned between EtOAc/water, and the organic layer collected, dried (MgSO4) and evaporated. The resulting crude was purified by flash chromatography eluting with EtOAc/iso-hexane 20-30%. Analysis of the puried fractions by LCMS showed some 3-cyano-4-[(1-methylethyl)oxy]benzoic acid present so sodium bicarbonate and EtOAc was added. The EtOAc layer was separated, dried (MgSO4) and evaporated to give the title compound (410 mg) as a white solid. MS (ES): C26H28N4O5 requires 476; found 421 [M+H−56]+.

reactant | 1,1-dimethylethyl 7-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 2.73 mmol, 0.84 g | ONC(C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1)=N | C15H21N3O4
reactant | 3-cyano-4-[(1-methylethyl)oxy]benzoic acid | 3.01 mmol, 0.617 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | EDC | 4.10 mmol, 0.786 g
reactant | HOBT | 3.28 mmol, 0.502 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.4 g
reactant | 3-cyano-4-[(1-methylethyl)oxy]benzoic acid | 0.3 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 410 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C26H28N4O5
